US07709479B1
Benzoyl chloride (10.7 ml, 92.5 mmol) was added to a stirred solution of 1,4-phenylenediamine (10.0 g, 92.5 mmol) and triethylamine (14.2 ml, 102 mmol) in dichloromethane (250 ml) at 0° C. The reaction was allowed to warm to ambient temperature over 3 hours, the solid was filtered off and water (100 ml) was added to the filtrate, causing precipitation of a second solid. Collection of this solid by suction filtration and drying in vacuo yielded N-benzoyl 4-aminoaniline (5.55 g, 28% yield) as a white solid:

reactant | Benzoyl chloride | 92.5 mmol, 10.7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1,4-phenylenediamine | 92.5 mmol, 10.0 g | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | triethylamine | 102 mmol, 14.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-benzoyl 4-aminoaniline | 5.55 g, 28% yield | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)N | C13H12N2O
